US07655666B2
2-Acetylamino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester
A mixture of 2-acetylamino-5-((E)-3-dimethylamino-acryloyl)-4-trifluoromethyl-benzoic acid methyl ester (600 mg, 1.67 mmol) and (2-methoxy-ethyl)-hydrazine (151 mg, 1.68 mmol) in toluene (10 mL) was stirred at 90° C. for 40 h. Four portions of (2-methoxy-ethyl)-hydrazine (one equiv each day) were added over 4 d and the mixture was kept at 90° C. The mixture was concentrated to dryness in vacuo. The crude product was purified by flash chromatography (silica gel, DCM/MeOH (100:0 to 60:40)) to provide the title compound as a yellow syrup (352 mg, 55%). ES-MS: m/z 386.3 [M+H]+, rt 5.50 min.

reactant | 2-acetylamino-5-((E)-3-dimethylamino-acryloyl)-4-trifluoromethyl-benzoic acid methyl ester | 1.67 mmol, 600 mg | COC(C1=C(C=C(C(=C1)C(\C=C\N(C)C)=O)C(F)(F)F)NC(C)=O)=O | C16H17F3N2O4
reactant | (2-methoxy-ethyl)-hydrazine | 1.68 mmol, 151 mg | COCCNN | C3H10N2O
reactant | (2-methoxy-ethyl)-hydrazine | one equiv | COCCNN | C3H10N2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Acetylamino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester | 352 mg, 55% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)CCOC)C(F)(F)F)NC(C)=O)=O | C17H18F3N3O4
